US08802713B2
5.0 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole was dissolved in 100 mL of dimethylsulfoxide, and 2.3 g of potassium carbonate was added, followed by stirring at room temperature for 5 minutes. To this solution, 6.4 g of 2,2,3,3,3-pentafluoropropyl nonafluorobutanesulfonate was added, followed by stirring at room temperature for 12 hours. Extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 5.3 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole.

reactant | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole | 5.0 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)O | C14H13F4N3O2S
reactant | potassium carbonate | 2.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,3,3,3-pentafluoropropyl nonafluorobutanesulfonate | 6.4 g | FC(C(C(C(S(=O)(=O)OCC(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C7H2F14O3S
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole | 5.3 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC(C(F)(F)F)(F)F | C17H14F9N3O2S
